US06797390B2
The trimethylsilyl groups were subsequently subjected to a deprotecting reaction in accordance with reaction (2) in FIG. 2. Specifically, 4.0 g of 4-trimethylsilyl ethynyl benzaldehyde was dissolved in 20 mL of methanol, the solution was stirred for 30 minutes under nitrogen gas, 0.19 g of sodium carbonate was added, and the product was stirred for another 3 hours at room temperature. The solvent was removed at a reduced pressure, the residue was washed with a 5% aqueous solution of sodium bicarbonate and extracted with dichloromethane, anhydrous sodium sulfate was added, and the product was dried. The dried product was filtered off and the solvent was removed at a reduced pressure. The product was dried in a vacuum, yielding the target compound 4-ethynyl benzaldehyde with an aldehyde odor as white crystals with the yield of 99%.

reactant | 4-trimethylsilyl ethynyl benzaldehyde | 4.0 g | C[Si](C1=CC(=C(C=O)C=C1)C#C)(C)C | C12H14OSi
reactant | sodium carbonate | 0.19 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-ethynyl benzaldehyde | yield of 99% | C(#C)C1=CC=C(C=O)C=C1 | C9H6O
